US05925761
Ethyl 2-(4-Formylphenyl)-2-Methylpropionate (formula II; R1 =COOEt) (alternate synthesis):
Ethyl 2-phenyl-2-methylpropionate (10 g) was dissolved in 50 mL of dichloromethane and cooled to 5° C. Titanium tetrachloride (10.5 mL) and 1,1-dichloromethyl methyl ether (7.5 mL) were added and the mixture was stirred at room temperature for 60 hours. The resulting dark solution was diluted with 50 mL of dichloromethane and washed twice with 50 mL of water. The organic solution was concentrated to give an oil which was treated with 30 mL of saturated aqueous sodium bisulfite solution for 12 hours. The precipitate was collected by filtration, washed with hexane, suspended in ethyl acetate and treated with excess potassium carbonate. The organic phase was separated, dried with sodium sulfate and stripped to provide 2 g of product.

reactant | Ethyl 2-phenyl-2-methylpropionate | 10 g | C1(=CC=CC=C1)C(C(=O)OCC)(C)C | C12H16O2
reactant | 1,1-dichloromethyl methyl ether | 7.5 mL | COC(Cl)Cl | C2H4Cl2O
reactant | sodium bisulfite | 30 mL | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 10.5 mL | [Ti](Cl)(Cl)(Cl)Cl
product | Ethyl 2-(4-Formylphenyl)-2-Methylpropionate | 2 g | C(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C13H16O3
